US04063925
1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-methoxycarbonyloxypyrazole
In a mixture of 20 ml. of dry benzene and 0.28 g. of triethylamine is dissolved 0.72 g. of 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole and then 0.26 g. of methyl chlorocarbonate is added dropwise at room temperature with stirring. After completion of the dropwise addition, the mixture is stirred at room temperature for 1 hour. After completion of the reaction, the reaction mixture is allowed to stand for 12 hours and then 30 ml. of water is added thereto. Then, a benzene layer is separated and an aqueous layer is extracted with benzene. The benzene layer and the benzene extract are combined and the mixture is washed with water and dried over anhydrous sodium sulfate. Then, the solvent is distilled off from the benzene solution and the resulting residue is recrystallized from a small amount of n-hexane to give 0.77 g. of the desired product as white crystals melting at 86°-88° C. Yield 92%.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole | CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C12H10Cl2N2O2
reactant | methyl chlorocarbonate | C(OC)(=O)Cl | C2H3ClO2
solvent | water | O | H2O
product | 1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-methoxycarbonyloxypyrazole | Yield 92% | CN1N=C(C(=C1OC(=O)OC)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C14H12Cl2N2O4
